US07262185B2
To a mixed solution of (4-nitrophenyl)[2-(1-propyl)imidazolyl]methanol (4.5 g) in methanol (150 ml) and ethanol (100 ml), 10% palladium carbon (450 mg) was added, and the mixture was stirred for 4 hours under hydrogen atmosphere. The insolubles were filtered off, and the residue was purified by basic silica gel column chromatography (methanol-ethyl acetate=1:8) and recrystallized from ethyl acetate-diisopropyl ether, to give (4-aminophenyl)[2-(1-propyl)imidazolyl]methanol (3.52 g) as brown crystals.

reactant | (4-nitrophenyl)[2-(1-propyl)imidazolyl]methanol | 4.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(O)C=1N=C(NC1)CCC | C13H15N3O3
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | 450 mg | [C].[Pd]
product | (4-aminophenyl)[2-(1-propyl)imidazolyl]methanol | 3.52 g | NC1=CC=C(C=C1)C(O)C=1N=C(NC1)CCC | C13H17N3O
